US07807709B2
D. (3S*,4S*)-4-Formyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
To a well stirred mixture of (3S*,4S*)-4-hydroxymethyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butylester 3-ethyl ester (3.21 g, 11.74 mmol) and Dess-Martin periodinane (2.63 g, 11.74 mmol) in CH2Cl2 (30 mL), slowly wet CH2Cl2 (232 μL of water in 10 mL of CH2Cl2) is added. The clear solution becomes cloudy toward the end of wet CH2Cl2 addition. The mixture is diluted with Et2O, then concentrated to a few mL of solvent by rotary evaporation. The residue is taken up in Et2O and then washed with a 1:1 10% Na2S2O3 saturated aqueous NaHCO3, followed by H2O and brine. The aqueous washings are back-extracted with Et2O, and this organic layer is washed with H2O and brine. The combined organic layers are dried with Na2SO4, filtered and concentrated. The crude mixture is used in the next step without further purification. TLC, Rf (c-hexane/AcOEt 8:2)=0.2.

reactant | (3S*,4S*)-4-hydroxymethyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butylester 3-ethyl ester | 11.74 mmol, 3.21 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1CO)C(=O)OC(C)(C)C | C13H23NO5
reactant | Dess-Martin periodinane | 11.74 mmol, 2.63 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
solvent | CH2Cl2 | 232 μL | C(Cl)Cl | CH2Cl2
product | (3S*,4S*)-4-Formyl-pyrrolidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)[C@@H]1CN(C[C@H]1C=O)C(=O)OC(C)(C)C | C13H21NO5
